* PSpice Model Editor - Version 16.0.0
*$
*LM4040_N
*****************************************************************************
*  (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH Design Center,Texas Instruments Inc.
* Part: LM4040_N
* Date: 10APR2013
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.0.0
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SNOS633G–MAY 2004–REVISED JULY 2012
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
******************************************************************************
.SUBCKT LM4040_NA5P0 V+ V-  PARAMS: TOL=0
C_Cstart         V- START  400nF  TC=0,0 
Q_Q22         N03098 N01931 V- NPN1X 
Q_Q7         N02184 VC_Q2 N01786 NPN1X 
Q_Q12         N02229 N03098 N04190 NPN1X 
Q_Q13         N04160 N04160 N04190 NPN1X 10
Q_Q3         VC_Q3 VB_Q3 VE NPN1X 10
Q_Q5         VC_Q3 N01129 N01136 PNPL1X 1.8
Q_Q6         N01129 N01129 N01136 PNPL1X 1.8
C_C3         N03098 N01136  3pF  TC=0,0 
Q_Q23         N01136 N01136 N08107 NPN1X 
R_R10         N01129 N01786  60K TC=0,0 
Q_Q15         N04160 N02229 N01136 PNPL1X 10
R_R1toR5         N07686 N01136  30.5K TC=0,0 
R_R15         N01931 Q20B  66K TC=0,0 
Q_Q14         N02229 N02229 N01136 PNPL1X 1
Q_Q20         N01533 Q20B V- NPN1X 
R_R6         VB_Q2 N07686  20K TC=0,0 
C_Cx         V- N01136  1pF  TC=0,0 
C_C2         VC_Q3 N02514  6pF  TC=0,0 
E_Estart         N30465 V- VALUE { max(0.4*(1-V(VB_Q2, VB_Q3)/.05), 0)+V(Q20B)
+  }
Q_Q1         V- FB_TEMP Q1E PNPV1X 5
Q_Q17         N01533 FB_TEMP Q1E PNPL1X 1
R_Rx6         V+ N01136  1000 TC=0,0 
Q_Q19         Q20B VE N08426 PNPL1X 1
R_R8         Q1E VB_Q3  45K TC=0,0 
Q_Q16         N01136 N04160 V- NPN1X 10
Q_Q4         VC_Q2 N01129 N01136 PNPL1X 1.8
R_R13         Q20B N01533  40K TC=0,0 
R_Rstart0         START N30465  200 TC=0,0 
R_R11         N02514 N02184  100K TC=0,0 
R_R14         N01755 V-  3.3K TC=0,0 
Q_Q11         N03098 N02514 N01136 PNPL1X 1.8
Q_Q21         N01786 Q20B N01755 NPN1X 6.75
Q_Q24         N01136 N07686 N08116 NPN1X 
Q_Q8         N02514 VC_Q3 N01786 NPN1X 
Q_Q2         VC_Q2 VB_Q2 VE NPN1X 
Q_Q10         N02514 N02184 N01136 PNPL1X 3.1
Q_Q9         N02184 N02184 N01136 PNPL1X 3.1
R_R18         Q1E N08116  69K TC=0,0 
R_R59         N01136 N08426  51K TC=0,0 
R_R12         N01505 V-  6K TC=0,0 
L_Lx1         N01136 V+  10uH  
R_R16         N04190 V-  1K TC=0,0 
Q_Q18         VE Q20B N01505 NPN1X 
R_Rstart1         Q20B START  20K TC=0,0 
R_R17         N08116 N08107  130k TC=0,0 
R_R7         VB_Q3 VB_Q2  10K TC=0,0 
C_C1         VC_Q2 N03098  3pF  TC=0,0 
R_R19       V+ FB_TEMP    {IF({TOL}==0,162218.6,IF({TOL}>0,162065.9, 162371.3 ))} 
R_R20       FB_TEMP V-  500K 
.model NPN1X	NPN Is=13.84e-18 Bf=130 TR=8ns
.model PNPV1X	PNP Is=261.8e-18 Bf=222
.model PNPL1X	PNP  Is=48e-18 Bf=63
.model Menable NMOS LEVEL 1
+ VTO 0
+ KP 20.000000E-06
+ PHI 0.6
+ IS 10.000000E-15
+ PB     .8          
+ PBSW     .8          
+ UCRIT   10.000000E+03 
+ DIOMOD    1             
*+ VDD    5            
*+ XPART    0            
*
*
.model Dideal D Is=0.001p N=0.01 Rs=0 Ikf=0 Xti=2 Eg=1.11 Cjo=0
+               M=0.33 Vj=1 Fc=0.5 Isr=0.1n Nr=2 Bv=75 Ibv=1e-10 Tt=0
*
*
.ENDS LM4040_NA5P0
*$
